US05532240
The mixture of 2.0 g of 4-(1,2-benzisothiazol-3-yl)piperazine hydrochloride, 2.0 g of 3-(4-chlorobutyryl)-2-methyl-5,6,7,8-tetrahydro-4H-thieno[3,2-c]azepin-4-one, 2.1 g of potassium carbonate and 1.2 g of potassium iodide in 15 ml of N,N-dimethylformamide and 15 ml of toluene was stirred at 60° C. for 3 hours. After the mixture was cooled in a water bath, water was added thereto and the mixture was extracted with ethyl acetate. The organic layer was washed with saline solution, dried over magnesium sulfate and concentrated. The residue was purified by column chromatography on a silica gel, dissolved in isopropyl alcohol and ethanol-maleic acid was added thereto to make maleate. The resulting crystals were recrystallized from ethanol to give 0.90 g of 3-(4-(4-(1,2-benzisothiazol-3-yl) piperazin-1-yl)butyryl)-2-methyl-5,6,7,8-tetrahydro-4H-thieno[3,2-c]azepin-4-one maleate as white crystals, m.p. 150°-152° C.

reactant | 4-(1,2-benzisothiazol-3-yl)piperazine hydrochloride | 2.0 g | Cl.S1N=C(C2=C1C=CC=C2)N2CCNCC2
reactant | 3-(4-chlorobutyryl)-2-methyl-5,6,7,8-tetrahydro-4H-thieno[3,2-c]azepin-4-one | 2.0 g | ClCCCC(=O)C1=C(SC2=C1C(NCCC2)=O)C | C13H16ClNO2S
reactant | potassium carbonate | 2.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1.2 g | [I-].[K+]
reactant | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 3-(4-(4-(1,2-benzisothiazol-3-yl) piperazin-1-yl)butyryl)-2-methyl-5,6,7,8-tetrahydro-4H-thieno[3,2-c]azepin-4-one maleate | 0.90 g | C(\C=C/C(=O)O)(=O)O.S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCCC(=O)C2=C(SC1=C2C(NCCC1)=O)C | InChI=1S/C24H28N4O2S2.C4H4O4/c1-16-21(22-20(31-16)9-4-10-25-24(22)30)18(29)7-5-11-27-12-14-28(15-13-27)23-17-6-2-3-8-19(17)32-26-23;5-3(6)1-2-4(7)8/h2-3,6,8H,4-5,7,9-15H2,1H3,(H,25,30);1-2H,(H,5,6)(H,7,8)/b;2-1-
